US07074800B1
Using an analogous procedure to that described in Example 189, 4-chloro-6-methoxy-7-(1-methylpiperidin-4-yl)methoxyquinazoline, (prepared as described for the starting material in Example 10); was reacted with 5-hydroxy-2-methylbenzimidazole (200 mg, 0.62 mmol) and after work-up and purification on a 10 g silica ISOLUTE column using successively dichloromethane, dichloromethane/methanol (95/5) and dichloromethane/methanol saturated with ammonia (95/5), gave 6-methoxy-4-(2-methyl-1H-benzimidazol-6-yloxy)-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (68 mg, 25%).

reactant | 4-chloro-6-methoxy-7-(1-methylpiperidin-4-yl)methoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 5-hydroxy-2-methylbenzimidazole | 0.62 mmol, 200 mg | OC1=CC2=C(N=C(N2)C)C=C1 | C8H8N2O
product | 6-methoxy-4-(2-methyl-1H-benzimidazol-6-yloxy)-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 68 mg, 25% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)OC=1C=CC2=C(NC(=N2)C)C1 | C24H27N5O3
